US06335360B1
1-[N-t-Butoxycarbonyl-2(S)-aminobutyryl]-5-hydroxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide
1-[N-t-butoxycarbonyl-2(S)-aminobutyryl]-5-benzyloxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide (1.27 g, 5.39 mmol) in ethyl acetate (28 ml) was hydrogenated under an atmosphere of hydrogen in the prescence of palladium on activated carbon at room temperature for 24 hours. The catalyst was filtered through celite with ethyl acetate washing. The filtrate was concentrated and directly chromatographed on silica gel using 2:3 petroleum spirit:ethyl acetate as eluent.

reactant | 1-[N-t-butoxycarbonyl-2(S)-aminobutyryl]-5-benzyloxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide | 5.39 mmol, 1.27 g | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C27H32F3N3O5
solvent | ethyl acetate | 28 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | [Pd] | Pd
product | 1-[N-t-Butoxycarbonyl-2(S)-aminobutyryl]-5-hydroxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)O)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C20H26F3N3O5
